US08629169B2
STEP 1: Ditert-butyl (1S,2R,5R,6R)-2-(tert-butoxycarbonylamino)-3-(dimethylaminomethylene)-4-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylate
Tert-butoxybis(dimethylamino)methane (481.1 ml, 2.33 mol) is added to a suspension of di-tert-butyl(1S,2S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate (600 g, 1.46 mol) in dry toluene (3.6 L) at room temperature under nitrogen. The mixture is heated at 80° C. for 3 hour and 45 minutes, then cooled to room temperature and stirred overnight. The reaction volume is reduced in vacuo, diluted with methyl tert-butyl ether (1.8 L) and hexane (1.8 L), and stirred for 3 hours at 15° C. After 3 hours, the resulting solid is collected by filtration, washed with cold hexane (2×1.8 L), and dried under vacuum to obtain the title compound (620.4 g, yield 91%). HPLC-MS: 98%.

reactant | Tert-butoxybis(dimethylamino)methane | 2.33 mol, 481.1 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | di-tert-butyl(1S,2S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-4-oxobicyclo[3.1.0]hexane-2,6-dicarboxylate | 1.46 mol, 600 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C(C1)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H33NO7
solvent | toluene | 3.6 L | C1(=CC=CC=C1)C | C7H8
solvent | methyl tert-butyl ether | 1.8 L | C(C)(C)(C)OC | C5H12O
solvent | hexane | 1.8 L | CCCCCC | C6H14
product | Ditert-butyl (1S,2R,5R,6R)-2-(tert-butoxycarbonylamino)-3-(dimethylaminomethylene)-4-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylate | 620.4 g, yield 91% | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C(C1=CN(C)C)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C24H38N2O7
